US07491718B2
2-[({2-[3-(diethylamino)propoxy]phenyl}sulfonyl)amino]-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid
A solution of 3-diethylamino-1-propanol (217 mg, 1.65 mmol) in 1 mL dry DMF was added dropwise to 60% sodium hydride dispersion (55 mg, 1.38 mmol). The mixture was stirred until hydrogen evolution ceased. To this mixture was added a solution of 2-([(2-fluorophenyl)sulfonyl]amino)-5,6,7,8-tetrahydro-1-napthalenecarboxylic acid methyl ester (100 mg, 0.28 mmol) in 1 mL of DMF. The mixture was stirred at 70 to 75° C. for three days, concentrated, and dissolved in 2 mL of pyridine. The mixture was treated with 3 equivalents of sodium iodide, heated in a microwave reactor at 150° C. for 25 minutes, and concentrated. The concentrate was purified by C18 reverse-phase HPLC using acetonitrile/water/0.1% TFA to provide the desired product (36 mg, 57.1%). MS (APCI): m/e 461.3 (M+H)+; 1H NMR (400 MHz, CD3OD) δ 7.74 (dd, 1H), 7.54 (dt, 1H), 7.27 (d, 1H) 7.12 (d, 1H), 6.98-7.04 (m, 2H), 4.27 (t, 2H), 3.43-3.51 (m, 2H), 3.25-3.36 (m, 6H), 3.65-3.81 (m, 4H), 3.35 (m, 2H), 1.70 (m, 4H), 1.37 (t, 6H).

reactant | 3-diethylamino-1-propanol | 1.65 mmol, 217 mg | C(C)N(CCCO)CC | C7H17NO
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-([(2-fluorophenyl)sulfonyl]amino)-5,6,7,8-tetrahydro-1-napthalenecarboxylic acid methyl ester | 0.28 mmol, 100 mg | COC(=O)C1=C(C=CC=2CCCCC12)NS(=O)(=O)C1=C(C=CC=C1)F | C18H18FNO4S
reactant | sodium iodide | 3 equivalents | [I-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-[({2-[3-(diethylamino)propoxy]phenyl}sulfonyl)amino]-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | 36 mg, 57.1% | C(C)N(CCCOC1=C(C=CC=C1)S(=O)(=O)NC1=C(C=2CCCCC2C=C1)C(=O)O)CC | C24H32N2O5S
